### PR TITLE
feat: Improve other bounds using PFR 9

### PR DESCRIPTION
**Pull request by sgouezel**
Improve the homomorphism version and approximate homomorphism version of PFR. It's not obvious if PFR 9 also gives an improvement for weak PFR over Z^d as the proof really uses the entropic control, which is not provided by the Kullback-Leibler divergence argument, so I haven't done anything there.

### CODE REVIEW

File: examples.lean [hunk 1]
```diff
@@ -21,13 +22,23 @@ example {A : Set G} {K : ℝ} (h₀A : A.Nonempty) (hA : Nat.card (A + A) ≤ K
...
 
+/-- The even more improved version -/
+example {A : Set G} {K : ℝ} (h₀A : A.Nonempty) (hA : Nat.card (A + A) ≤ K * Nat.card A) :
+    ∃ (H : Submodule (ZMod 2) G) (c : Set G),
+      Nat.card c < 2 * K ^ 9 ∧ Nat.card H ≤ Nat.card A ∧ A ⊆ c + H := by
+  convert better_PFR_conjecture h₀A hA
+  norm_cast
+
+#print axioms better_PFR_conjecture
+
```
Comment (YaelDillies) [inline examples.lean:40]:
```suggestion
```

**Review by YaelDillies — COMMENTED** [review]
Amazing

File: examples.lean (hunk 1 above)
Comment (sgouezel) [reply examples.lean:40]: By the way, this `examples` file is very much broken. I guess it isn't tested by CI, and I'm not sure what its role is.

Comment (YaelDillies) [reply examples.lean:40]: I think it is referenced on Terry's blog? It should very much be checked by CI!

**Comment by teorth** [comment]
Yeah, it's supposed to allow someone with basic understanding of Lean, but not of the various technical definitions used in the PFR project, to be able to be convinced of the final results of the project.  But it hasn't been maintained in months and so is indeed a bit broken.  Were you able to get it to run with the latest build?  If so we can try to explicitly import it in the master Lean file so that it is covered by CI going forward.

**Comment by YaelDillies** [comment]
> we can try to explicitly import it in the master Lean file so that it is covered by CI going forward.

We will need to move it into the `PFR` folder (or another library folder. This will break links to it from your blog, which you will need to update. Will you be able to do that?

**Comment by teorth** [comment]
Sure, will do.

**Comment by YaelDillies** [comment]
Here is the PR: #233
